US05370861
1,3-Dioxolan-2-one-4-yl 5-(N-acetylamino)-3-(N-acetyl-N-methylamino)-2,4,6-triiodobenzenecarboxylate
4-Chloro-1,3-dioxolan-2-one (1.35 g, 11 mmol) was added at room temperature to a solution of potassium 5-(N-acetylamino)-3-(N-acetyl-N-methylamino)-2,4,6-triiodobenzenecarboxylate (6.66 g, 10 retool) and sodium iodide (0.15 g, 1 retool) in dry DMF (50 ml). After stirring at 50° C. for 6 hours and at room temperature for 4 days the solvent was removed at reduced pressure. The residue was dissolved in chloroform (100 ml) and washed four times with a saturated sodium hydrogen carbonate solution and finally twice with water. After treatment with magnesium sulfate the solution was finally evaporated to dryness. Yield: 5.6 g. Purity by HPLC: 93%. 1H-NMR (DMSO-d6): delta=1.67 (N(CH3)COCH3); 2.05(NCOCH3); 2.96 (NCH3); 4.7; 4.9(CH2); 7.02(CH); 10.14 ppm (NH).

reactant | 4-Chloro-1,3-dioxolan-2-one | 11 mmol, 1.35 g | ClC1OC(OC1)=O | C3H3ClO3
reactant | potassium 5-(N-acetylamino)-3-(N-acetyl-N-methylamino)-2,4,6-triiodobenzenecarboxylate | 6.66 g | C(C)(=O)NC=1C(=C(C(=C(C1I)C(=O)[O-])I)N(C)C(C)=O)I.[K+]
reactant | sodium iodide | 0.15 g | [I-].[Na+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 1,3-Dioxolan-2-one-4-yl 5-(N-acetylamino)-3-(N-acetyl-N-methylamino)-2,4,6-triiodobenzenecarboxylate | C(C)(=O)NC=1C(=C(C(=C(C1I)C(=O)OC1OC(OC1)=O)I)N(C)C(C)=O)I | C15H13I3N2O7
